US09108973B2
Synthesis of (S)-1-(3-(4-amino-3-((3,5-dimethoxyphenyl)ethynyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)pyrrolidin-1-yl)propan-1-one (Reference Example Compound 3)
In accordance with Example 1, (S)-3-((3,5-dimethoxyphenyl)ethynyl)-1-(pyrrolidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine and propionyl chloride were used to obtain the title compound as a white solid. Table 2 shows the physical properties thereof.

reactant | (S)-3-((3,5-dimethoxyphenyl)ethynyl)-1-(pyrrolidin-3-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | COC=1C=C(C=C(C1)OC)C#CC1=NN(C2=NC=NC(=C21)N)[C@@H]2CNCC2 | C19H20N6O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | (S)-1-(3-(4-amino-3-((3,5-dimethoxyphenyl)ethynyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)pyrrolidin-1-yl)propan-1-one | NC1=C2C(=NC=N1)N(N=C2C#CC2=CC(=CC(=C2)OC)OC)[C@@H]2CN(CC2)C(CC)=O | C22H24N6O3
